US04775677
[3-Ethyl-2-(ethylimino)-4-oxo-5-thiazolidinylidene]acetic acid
Prepared by the method described in Example 1 from N,N'-diethylthiourea (1.0 g, 8 mmoles) and acetylenedicarboxylic acid (1 g, 9 mmoles). Crystallization from hexane gave the product (1.5 g), mp 148°-152° C.

reactant | N,N'-diethylthiourea | 8 mmoles, 1.0 g | C(C)NC(=S)NCC | C5H12N2S
reactant | acetylenedicarboxylic acid | 9 mmoles, 1 g | C(#CC(=O)O)C(=O)O | C4H2O4
product | [3-Ethyl-2-(ethylimino)-4-oxo-5-thiazolidinylidene]acetic acid | 1.5 g | C(C)N1C(SC(C1=O)=CC(=O)O)=NCC | C9H12N2O3S
